US03966749
PREPARATION OF OPTICALLY ACTIVE m-(TRIMETHYLACETOXY)-α-[(METHYLAMINO)METHYL]BENZYL ALCOHOL HYDROCHLORIDE
The filtrate obtained in the previous reaction containing (R)-2,2,3-trimethyl-5-(m-trimethylacetoxyphenyl)-1,3-oxazolidine (1.8 g, 6.2 mmole) in 60 ml of ether was treated with hydrogen chloride gas until the solution was no longer turbid. This mixture was then evaporated to dryness and the residue was dissolved in a small amount of ethanol and then diluted with hexane. The hydrolysis and crystallization took place in the solution to give 1.2 g of the final product, (R)-m-(trimethylacetoxy)-α-[methylamino)methyl]benzyl alcohol hydrochloride, 70% yield. mp 128°-130° C, αD25° = -36.7° (C2H5OH). ir (KBr): 3370, 2690, 2795, 2420, 1750, 1610, 1590, 1460, 1240 and 1110 cm-1. nmr (CD3COCD3. D2O): δ7.5-6.8 (m, 4H), 5.3 (dd, 1H, J = 5 and 10Hz), 3.8 (b, 3H), 3.4 (m, 2H), 2.9 (s, 3H) and 1.4 (s, 9H) ppm.

reactant | (R)-2,2,3-trimethyl-5-(m-trimethylacetoxyphenyl)-1,3-oxazolidine | 6.2 mmole, 1.8 g | CC1(O[C@@H](CN1C)C1=CC(=CC=C1)OC(C(C)(C)C)=O)C | C17H25NO3
reactant | hydrogen chloride | Cl | ClH
reactant | benzyl alcohol hydrochloride | Cl.C(C1=CC=CC=C1)O
solvent | ether | 60 ml | CCOCC | C4H10O
product | m-(TRIMETHYLACETOXY)-α-[(METHYLAMINO)METHYL]BENZYL ALCOHOL HYDROCHLORIDE | 1.2 g, 70% yield | Cl.CC(C(=O)OC=1C=C(C(CNC)O)C=CC1)(C)C | InChI=1S/C14H21NO3.ClH/c1-14(2,3)13(17)18-11-7-5-6-10(8-11)12(16)9-15-4;/h5-8,12,15-16H,9H2,1-4H3;1H
